US06359134B1
1-(4-Methoxycarbonylbenzenesulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
To a solution of 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride (180 mg) and triethylamine (253 mg) in dichloromethane (20 ml) was added 4-chlorosulfonylbenzoic acid (108 mg), and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added a solution of diazomethane in ether until the solution remained yellow. The mixture was concentrated and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of the title compound (158 mg).

reactant | 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride | 180 mg | Cl.Cl.CC=1N=C(SC1C(=O)N1CCNCC1)C1=CC=NC=C1
reactant | triethylamine | 253 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chlorosulfonylbenzoic acid | 108 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-(4-Methoxycarbonylbenzenesulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 158 mg | COC(=O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C22H22N4O5S2
